US05216148
1.00 g of ethyl p-[(2,3,4,5-tetrahydro-1,5,5-trimethyl-2-oxo-1H-1-benzazepin-7-yl)carbamoyl]benzoate in 75 ml of ethanol/water (2:1) was treated with 0.40 g of sodium hydroxide and the reaction mixture was stirred at room temperature overnight. Thereafter, it was poured on to ice/conc. hydrochloric acid, extracted with ethyl acetate, the extract was washed with saturated sodium chloride solution, dried and concentrated up to crystallization. There was obtained 0.79 g of p-[(2,3,4,5-tetra- hydro-1,5,5-trimethyl-2-oxo-1H-1-benzazepin-7-yl)carbamoyl]benzoic acid, m.p. >275° C.

reactant | ethyl p-[(2,3,4,5-tetrahydro-1,5,5-trimethyl-2-oxo-1H-1-benzazepin-7-yl)carbamoyl]benzoate | 1.00 g | CN1C(CCC(C2=C1C=CC(=C2)NC(=O)C2=CC=C(C(=O)OCC)C=C2)(C)C)=O | C23H26N2O4
reactant | sodium hydroxide | 0.40 g | [OH-].[Na+]
solvent | ethanol water | 75 ml | C(C)O.O
product | p-[(2,3,4,5-tetra- hydro-1,5,5-trimethyl-2-oxo-1H-1-benzazepin-7-yl)carbamoyl]benzoic acid | 0.79 g | CN1C(CCC(C2=C1C=CC(=C2)NC(=O)C2=CC=C(C(=O)O)C=C2)(C)C)=O | C21H22N2O4
